US07317125B2
Preparation of benzoic acid N′-[2-(2′-ethyl-5-methyl-biphenyl-2-yloxy)-acetyl]-N′-isopropyl-hydrazide
A solution of benzoic acid N′-[2-(2-bromo-4-methyl-phenoxy)-acetyl]-N′-isopropyl-hydrazide (100 mg, 0.247 mmol) in DME (3 ml)/2M Na2CO3 (0.435 ml, 0.8645 mmol) was treated with 2-ethylphenylboronic acid (74 mg, 0.493 mmol), Pd[PPh3]4 (29 mg, 0.0247 mmol in a microwave oven at 150° C. for 10 min. The reaction mixture was partitioned between water and ethyl acetate. The organic layer was washed with brine, dried over sodium sulfate, filtered, and concentrated. The crude was absorbed on silica and purified on a silica gel column with a 20-40% ethyl acetate/hexanes gradient to afford the product as a white solid (77 mg, 72%). MS m/e 431.34 (M+H+)

reactant | benzoic acid N′-[2-(2-bromo-4-methyl-phenoxy)-acetyl]-N′-isopropyl-hydrazide | 0.247 mmol, 100 mg | BrC1=C(OCC(=O)N(NC(C2=CC=CC=C2)=O)C(C)C)C=CC(=C1)C | C19H21BrN2O3
reactant | Na2CO3 | 0.8645 mmol, 2M, 0.435 ml | C(=O)([O-])[O-].[Na+].[Na+]
reactant | 2-ethylphenylboronic acid | 0.493 mmol, 74 mg | C(C)C1=C(C=CC=C1)B(O)O | C8H11BO2
solvent | DME | 3 ml | COCCOC | C4H10O2
product | benzoic acid N′-[2-(2′-ethyl-5-methyl-biphenyl-2-yloxy)-acetyl]-N′-isopropyl-hydrazide | 77 mg, 72% | C(C)C1=C(C=CC=C1)C1=C(C=CC(=C1)C)OCC(=O)N(NC(C1=CC=CC=C1)=O)C(C)C | C27H30N2O3
